US04666907
Synthesis of 2,4-di-t-butyl-1-hydroxy-10H-phenothiazine
To a solution of 3,5-di-t-butyl-1,2-benzoquinone (2.2 g) in methanol (15 ml) cooled in an ice bath was added 2-aminothiophenol (1.38 g) and the mixture was stirred for 2 hours. A solid precipitate was filtered off and crystallized from heptane to yield the title compound m.p. 202°-212° (dec.). From the methanol filtrate there was obtained, after chromatography and crystallization, an additional crop of the title compound.

reactant | 3,5-di-t-butyl-1,2-benzoquinone | 2.2 g | C(C)(C)(C)C=1C(C(C=C(C1)C(C)(C)C)=O)=O | C14H20O2
reactant | 2-aminothiophenol | 1.38 g | NC1=C(C=CC=C1)S | C6H7NS
solvent | methanol | 15 ml | CO | CH4O
product | 2,4-di-t-butyl-1-hydroxy-10H-phenothiazine | C(C)(C)(C)C1=C(C=2NC3=CC=CC=C3SC2C(=C1)C(C)(C)C)O | C20H25NOS
